US08536197B2
(127a) tert-Butyl 3-(3-fluoropropoxy)-4,4-dimethoxypiperidine-1-carboxylate
The same operation as in Example (90a) was performed using tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate (6.4 g, 24.5 mmol), sodium hydride (55% content, 1.33 g, 30.6 mmol), 2-fluoropropyl p-toluenesulfonate (described in Costa, Brian de; Radesca, Lilian; Dominguez, Celia; Paolo, Lisa Di; Bowen, Wayne D.; J. Med. Chem.; 35; 12; 1992; 2221-2230, 7.1 g, 30.6 mmol) and DMF (50 mL). The residue was purified by column chromatography (elution solvent: hexane/ethyl acetate=10/1, 4/1, 2/1) to obtain 1.39 g of the title compound as a colorless oily substance (18%).

reactant | tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate | 24.5 mmol, 6.4 g | OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C12H23NO5
reactant | sodium hydride | 30.6 mmol, 1.33 g | [H-].[Na+]
reactant | 2-fluoropropyl p-toluenesulfonate | 30.6 mmol, 7.1 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)F)C | C10H13FO3S
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(3-fluoropropoxy)-4,4-dimethoxypiperidine-1-carboxylate | 1.39 g | FCCCOC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C15H28FNO5
